US07253286B2
4-(4-Amino-2,3-dimethylphenoxy)-7-benzyloxy-6-cyanoquinoline
4-Amino-2,3-xylenol (2.80 g) purchased from Tokyo Chemical Industries was dissolved in dimethylsulfoxide (15 ml), and after gradually adding sodium hydride (816 mg) at room temperature, the mixture was stirred for 20 minutes. 7-Benzyloxy-4-chloro-6-cyanoquinoline (3.0 g) was added, and the mixture was heated at 100° C. for 4 hours while stirring. After cooling to room temperature, the reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water, 1N aqueous sodium hydroxide and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, and the obtained crude product was washed with ethyl acetate to obtain the title compound (1.72 g) as light brown crystals.

reactant | 4-Amino-2,3-xylenol | 2.80 g | NC1=C(C(=C(C=C1)O)C)C | C8H11NO
reactant | sodium hydride | 816 mg | [H-].[Na+]
reactant | 7-Benzyloxy-4-chloro-6-cyanoquinoline | 3.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)C#N | C17H11ClN2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Amino-2,3-dimethylphenoxy)-7-benzyloxy-6-cyanoquinoline | 1.72 g | NC1=C(C(=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCC2=CC=CC=C2)C=C1)C)C | C25H21N3O2
